US05536725
Under a nitrogen atmosphere, a stirred solution of 15.0 grams (0.051 mole) of 3,5-di(trifluoromethyl)phenyl bromide in 45 mL of dry tetrahydrofuran was cooled to below -80° C., and 20.5 mL (0.051 mole) of n-butyllithium (2.5M in hexanes) was added dropwise while maintaining the reaction mixture temperature below -80° C. Upon completion of addition, an additional 50 mL of tetrahydrofuran was added to promote stirring. The reaction mixture was then stirred at -80° C. for an additional one hour. After this time a solution of 13.0 grams (0.051 mole) of iodine in 30 mL of tetrahydrofuran was added dropwise while maintaining the reaction mixture temperature below -80° C. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature. The reaction mixture was then poured into 400 mL of water, and the mixture was extracted with one 200 mL portion of diethyl ether. The ether extract was washed with an aqueous solution of 10 % meta-sodium bisulfate. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 13.1 grams of 3,5-di(trifluoromethyl)phenyl iodide.

reactant | 3,5-di(trifluoromethyl)phenyl bromide | 0.051 mole, 15.0 grams | FC(C=1C=C(C=C(C1)C(F)(F)F)Br)(F)F | C8H3BrF6
reactant | n-butyllithium | 0.051 mole, 2.5M, 20.5 mL | C(CCC)[Li]
reactant | iodine | 0.051 mole, 13.0 grams | II | I2
reactant | water | 400 mL | O | H2O
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3,5-di(trifluoromethyl)phenyl iodide | 13.1 grams | FC(C=1C=C(C=C(C1)C(F)(F)F)I)(F)F | C8H3F6I
